US07101892B2
[1-(4-Bromobutyl)-cyclobutanesulfonyl]benzene
The title compound was prepared as described in Description 7 from 1,1-bis(phenylsulfonyl)cyclobutane and 1,4-dibromobutane.

reactant | 1,1-bis(phenylsulfonyl)cyclobutane | C1(=CC=CC=C1)S(=O)(=O)C1(CCC1)S(=O)(=O)C1=CC=CC=C1 | C16H16O4S2
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
product | [1-(4-Bromobutyl)-cyclobutanesulfonyl]benzene | BrCCCCC1(CCC1)S(=O)(=O)C1=CC=CC=C1 | C14H19BrO2S
